US07893099B2
Step 3: 3-(2-Chloro-phenylsulfanyl)-cyclopentanecarboxylic acid methyl ester
A solution of 2-chlorothiophenol (0.19 g, 1.5 eq) in THF (6.0 mL) was treated with NaH (60% dispersion in mineral oil, 0.05 g, 1.5 eq). The resulting solution was stirred at RT for 30 min. A solution of 3-methanesulfonyloxy-cyclopentanecarboxylic acid methyl ester (0.20 g, 1.0 eq) in THF (2.0 mL) was then added dropwise. The mixture was warmed at 50° C. and stirred for 3 h. The mixture was partitioned between 1N sodium bicarbonate and ethyl acetate. The combined organic phases were dried over sodium sulfate and evaporated. The title compound was obtained as a colorless oil (0.24 g, 98%) and was used without further purification in the next step. MS (ESI): m/z=271.2 [M+H]+.

reactant | 2-chlorothiophenol | 0.19 g, 1.5 eq | ClC1=C(C=CC=C1)S | C6H5ClS
reactant | NaH | 0.05 g, 1.5 eq | [H-].[Na+]
reactant | 3-methanesulfonyloxy-cyclopentanecarboxylic acid methyl ester | 0.20 g, 1.0 eq | COC(=O)C1CC(CC1)OS(=O)(=O)C | C8H14O5S
solvent | THF | 6.0 mL | C1CCOC1 | C4H8O
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | 3-(2-Chloro-phenylsulfanyl)-cyclopentanecarboxylic acid methyl ester | COC(=O)C1CC(CC1)SC1=C(C=CC=C1)Cl | C13H15ClO2S
